US06858630B2
Preparation of 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid hydrochloride (Compound 106)
To an agitated solution of 3,4-dimethylbiphenyl-3-carbaldehyde (0.019 g, 0.09 mmol) in EtOH (0.80 mL) was added 7,8-Diamino-1-hydroxy-3-naphthoic acid dihydrochloride (0.024 g, 0.08 mmol) and sodium bisulfite (0.02 g) in water (0.20 mL). The solution was heated to 60° C. and agitated overnight. The solution was cooled to room temperature and concentrated under reduced pressure. The tan residue was subjected to HPLC (ODS-A, gradient 10-90% CH3CN/water 0.1% TFA) to provide the title compound (0.015 g, 33%) MS(ES) m/z 409 [M+H].

reactant | 3,4-dimethylbiphenyl-3-carbaldehyde | 0.09 mmol, 0.019 g | CC1(CC(=CC=C1C)C1=CC=CC=C1)C=O | C15H16O
reactant | 7,8-Diamino-1-hydroxy-3-naphthoic acid dihydrochloride | 0.08 mmol, 0.024 g | Cl.Cl.NC1=CC=C2C=C(C=C(C2=C1N)O)C(=O)O
reactant | sodium bisulfite | 0.02 g | S([O-])(O)=O.[Na+]
reactant | EtOH | 0.80 mL | CCO | C2H6O
solvent | water | 0.20 mL | O | H2O
product | 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid hydrochloride | 0.015 g, 33% | Cl.CC=1C=C(C=CC1C)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)O)O | InChI=1S/C26H20N2O3.ClH/c1-14-6-7-17(10-15(14)2)16-4-3-5-19(11-16)25-27-21-9-8-18-12-20(26(30)31)13-22(29)23(18)24(21)28-25;/h3-13,29H,1-2H3,(H,27,28)(H,30,31);1H
